US08859776B2
Synthesis of 4-(2-(4-Hydroxy-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenethoxy)butanoic acid A63
Silica gel (230-400 mesh, 88 mg) was added to tert-butyl 4-(2-(4-hydroxy-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenethoxy)butanoate (15 mg, 0.018 mmol) in toluene (0.5 mL) and heated to reflux with vigorous stirring for 6 h. Additional silica gel (44 mg) and toluene (0.5 mL) were added and reflux was continued for 18 h. The reaction mixture was cooled to room temperature and the silica gel was removed by filtration through Celite washing with methylene chloride/methanol (1:1, 10 mL) and methanol (10 mL). The solvent was removed under reduced pressure and the residue purified by silica gel chromatography (methanol/methylene chloride) to provide A63 (9.8 mg, 70% yield) as a white solid after lyophilization from water/acetonitrile: 1H NMR (300 MHz, CDCl3) 8.81 (d, J=4.8 Hz, 1H), 8.06 (d, J=8.1 Hz, 1H), 7.49 (dd, J=8.0, 5.0 Hz, 1H), 7.23-7.05 (m, 3H), 6.71 (d, J=7.5 Hz, 1H), 6.68 (d, J=1.8 Hz, 0.7H), 6.54 (d, J=1.8 Hz, 0.3H), 5.57-5.40 (m, 1H), 4.93-4.73 (m, 1H), 4.70-4.45 (m, 2H), 3.95-3.01 (m, 9H), 2.81 (dt, J=14.1, 3.67 Hz, 1H), 2.59-1.24 (m, 18H), 1.08-0.96 (m, 3H).

reactant | tert-butyl 4-(2-(4-hydroxy-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenethoxy)butanoate | 0.018 mmol, 15 mg | OC1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=NC=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)C1=C(CCOCCCC(=O)OC(C)(C)C)C=CC=C1 | C42H51F6N3O7S
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-(4-Hydroxy-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenethoxy)butanoic acid | 70% yield | OC1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=NC=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)C1=C(CCOCCCC(=O)O)C=CC=C1 | C38H43F6N3O7S
